US07435744B2
2-[4-(4-Methyl-benzyl)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-benzoxazol-6-yl]-acetamide (45 70002764)
The title compound is prepared from 5-amino-1,3-dihydro-indol-2-one and [4-(4-methyl-benzyl)-piperidin-1-yl)-oxo-acetic acid according to the method described in Example 1c. Melting Point: 216-220° C. (diethylether)

reactant | 5-amino-1,3-dihydro-indol-2-one | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | [4-(4-methyl-benzyl)-piperidin-1-yl)-oxo-acetic acid | CC1=CC=C(CC2CCN(CC2)C(C(=O)O)=O)C=C1 | C15H19NO3
reactant | diethylether | C(C)OCC | C4H10O
product | 2-[4-(4-Methyl-benzyl)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-benzoxazol-6-yl]-acetamide | CC1=CC=C(CC2CCN(CC2)C(C(=O)NC2=CC3=C(NC(O3)=O)C=C2)=O)C=C1 | C22H23N3O4
